US09303033B2
Synthesis of 2-(4-(7-(cyclopropylamino)-3-formylpyrazolo[1,5-a]pyrimidin-5-yl)piperazin-1-yl)nicotinonitrile
In a reaction flask, 2-(piperazin-1-yl)nicotinonitrile (22 mg, 0.11 mmol) was mixed with 5-chloro-7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde (27 mg, 0.11 mmol) in DMF (0.5 mL) along with potassium carbonate (32 mg, 0.23 mmol). The reaction was heated at 95° C. for 12 hours then partitioned between water and ethyl acetate. The organic layer was washed with water then saturated NaCl solution. The ethyl acetate layer was isolated, dried of anhydrous sodium sulfate, filtered, and evaporated to dryness. The product, 2-(4-(7-(cyclopropylamino)-3-formylpyrazolo[1,5-a]pyrimidin-5-yl)piperazin-1-yl)nicotinonitrile, was recovered in 35% yield (16 mg) after recrystallization from ethyl acetate/hexanes. LCMS (M+1=389)

reactant | 2-(piperazin-1-yl)nicotinonitrile | 0.11 mmol, 22 mg | N1(CCNCC1)C1=C(C#N)C=CC=N1 | C10H12N4
reactant | 5-chloro-7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde | 0.11 mmol, 27 mg | ClC1=NC=2N(C(=C1)NC1CC1)N=CC2C=O | C10H9ClN4O
reactant | potassium carbonate | 0.23 mmol, 32 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 2-(4-(7-(cyclopropylamino)-3-formylpyrazolo[1,5-a]pyrimidin-5-yl)piperazin-1-yl)nicotinonitrile | 35% yield | C1(CC1)NC1=CC(=NC=2N1N=CC2C=O)N2CCN(CC2)C2=C(C#N)C=CC=N2 | C20H20N8O
